US06833366B1
3-[[(3-hydroxyphenyl)sulfonyl]amino]-butanoic acid, ethyl ester
A mixture of β-[[(3-methoxypheyl)sulfonyl]amino]-butanoic acid, ethyl ester (7.8 g, 25.7 mmol) and ethanethiol (8 g, 0.13 mol) in methylenechloride (200 ml) was cooled in ice-bath. Aluminum chloride (17.2 g, 0.13 mol) was added to above soultion. The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was quenched with 3N HCl (200 ml). Organic layer was separated. Aqueous layer was extracted with methylene chloride (2×100 ml). Combined organic solution was concentrated and dried to give the title compound (7 g, 94%). The material was used for the next reaction without further purification. 1H NMR (300 MHz, CD3OD) □|□d, 3H, J=6.73 Hz), 1.23 (t, 3H, J=7.11 Hz), 2.31-2.49 (m, 2H), 3.66-3.74 (m, 1H), 4.01-4.16 (m, 2H), 7.00-7.04 (m, 1H), 7.27-7.41 (m, 3H).

reactant | β-[[(3-methoxypheyl)sulfonyl]amino]-butanoic acid, ethyl ester | 25.7 mmol, 7.8 g | COC=1C=C(C=CC1)S(=O)(=O)NC(CC(=O)OCC)C | C13H19NO5S
reactant | ethanethiol | 0.13 mol, 8 g | C(C)S | C2H6S
reactant | Aluminum chloride | 0.13 mol, 17.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylenechloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-[[(3-hydroxyphenyl)sulfonyl]amino]-butanoic acid, ethyl ester | 7 g, 94% | OC=1C=C(C=CC1)S(=O)(=O)NC(CC(=O)OCC)C | C12H17NO5S
